US07576099B2
2-Methoxy-4-(3,3-dimethylbut-1-ynyl)benzoic acid
A mixture of methyl 2-methoxy-4-(3,3-dimethylbut-1-ynyl)benzoate (1.10 g, 0.00447 mol), MeOH (20 mL), and 2N aqueous NaOH solution (5 mL) was stirred at 65° C. overnight. After allowing to cool, the mixture was concentrated under vacuum. The residue was treated with water, and extracted with hexane. The aqueous layer was acidified with 1N HCl to pH 2-3, and extracted with EtOAc (50 mL×3). The combined organic layers were washed with brine, dried (Na2O4), filtered and concentrated under vacuum to give the product (870 mg, 84%) as a white solid. LC-MS: 3.22 min, 233.4 (M+1).

reactant | methyl 2-methoxy-4-(3,3-dimethylbut-1-ynyl)benzoate | 0.00447 mol, 1.10 g | COC1=C(C(=O)OC)C=CC(=C1)C#CC(C)(C)C | C15H18O3
reactant | NaOH | 2N, 5 mL | [OH-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | 2-Methoxy-4-(3,3-dimethylbut-1-ynyl)benzoic acid | 870 mg, 84% | COC1=C(C(=O)O)C=CC(=C1)C#CC(C)(C)C | C14H16O3
